US07521462B2
Sodium triacetoxyborohydride (4.5 g, 21.23 mmol) is added to a stirred solution of 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.63 g, 13.13 mmol), 2,4-dimethyl-thiazole-5-carboxaldehyde (1.95 g, 13.81 mmol, Maybridge), acetic acid (0.80 ml, 13.98 mmol) and 1,2-dichloroethane (125 ml). The reaction is stirred overnight at room temperature under nitrogen. The reaction is poured into 2N NaOH (300 ml) and extracted with ethyl acetate (200 ml×3). The ethyl acetate is dried over sodium sulfate, filtered, and the filtrate concentrated. The crude product is purified by flash chromatography on silica gel eluting with 0.5% concentrated ammonium hydroxide/5% ethanol/chloroform to yield (2.93 g, 69%) of 4-{[(2,4-dimethyl-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=326.2 (M+1); 1H NMR (CDCl3): δ=4.10 (2H, br m), 3.91 (2H, s), 2.88-2.79 (2H, brm), 2.73-2.66 (1H, m), 2.66 (3H, s), 2.34 (3H, s), 1.86 (2H, brd), 1.48 (9H, s), 1.36-1.24 (3H, m).

reactant | Sodium triacetoxyborohydride | 21.23 mmol, 4.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 13.13 mmol, 2.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | 2,4-dimethyl-thiazole-5-carboxaldehyde | 13.81 mmol, 1.95 g | CC=1SC(=C(N1)C)C=O | C6H7NOS
reactant | acetic acid | 13.98 mmol, 0.80 ml | C(C)(=O)O | C2H4O2
reactant | NaOH | 2N, 300 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 125 ml | ClCCCl | C2H4Cl2
product | 4-{[(2,4-dimethyl-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 2.93 g, 69% | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=C(N=C(S1)C)C | C16H27N3O2S
